### PR TITLE
feat: add BitVec _assoc lemmas

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
@bollu @alexkeizer, can you pre-review. I plan to upstream this to lean.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -487,6 +492,10 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   ext
   simp
 
+theorem and_assoc (a b c : BitVec w) :
+    a &&& b &&& c = a &&& (b &&& c) := by
+  ext i; simp [Bool.and_assoc]
+
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:498]:
```suggestion
  ext i
  simp [Bool.and_assoc]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -507,6 +516,10 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   ext
   simp
 
+theorem xor_assoc (a b c : BitVec w) :
+    a ^^^ b ^^^ c = a ^^^ (b ^^^ c) := by
+  ext i; simp [Bool.xor_assoc]
+
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:522]:
```suggestion
theorem xor_assoc (a b c : BitVec w) :
    a ^^^ b ^^^ c = a ^^^ (b ^^^ c) := by
  ext i
  simp [Bool.xor_assoc]

```

**Comment by alexkeizer** [comment]
LGTM

**Comment by tobiasgrosser** [comment]
This has been merged months ago.
